US08202885B2
BB29.1 3-(2-Methoxy-ethoxy)-benzene-1,2-diamine
Prepared from 1-bromo-2-methoxyethan and 2-amino-3-nitrophenol in analogy to 3-isopropoxy-benzene-1,2-diamine.

reactant | 1-bromo-2-methoxyethan | BrCCOC | C3H7BrO
reactant | 2-amino-3-nitrophenol | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | 3-isopropoxy-benzene-1,2-diamine | C(C)(C)OC1=C(C(=CC=C1)N)N | C9H14N2O
product | 3-(2-Methoxy-ethoxy)-benzene-1,2-diamine | COCCOC1=C(C(=CC=C1)N)N | C9H14N2O2
